US07531532B2
N-(4-Fluorophenyl)-N′-[4-(2-acetylaminopyridin-4-yloxy)-2-fluorophenyl]malonamide
N-(4-Fluorophenyl)-N′-[4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]malonamide (20.6 mg) was dissolved in N,N-dimethylformamide (0.5 ml), and then triethylamine (0.043 ml) and acetyl chloride (0.011 ml) were added dropwise thereto under a nitrogen atmosphere at room temperature, followed by stirring overnight. To the reaction mixture was added a 1 N aqueous solution of sodium hydroxide (1.5 ml), followed by stirring and extracting with ethyl acetate. The organic layer was concentrated under a reduced pressure to give a residue, which was purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate). Fractions containing the target compound were concentrated to give a residue, which was then dried in vacuum to provide the titled compound (9.3 mg, 41%) as white powder.

reactant | N-(4-Fluorophenyl)-N′-[4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]malonamide | 20.6 mg | FC1=CC=C(C=C1)NC(CC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)N)F)=O | C20H16F2N4O3
reactant | triethylamine | 0.043 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.011 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | N-(4-Fluorophenyl)-N′-[4-(2-acetylaminopyridin-4-yloxy)-2-fluorophenyl]malonamide | 9.3 mg, 41% | FC1=CC=C(C=C1)NC(CC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)NC(C)=O)F)=O | C22H18F2N4O4
